* lif_demo_network [DETAILED]

VDD vdd 0 5.0
VREF vref 0 2.5
VOPP vpos 0 12.0
VOPN vneg 0 -12.0
* ---------- demo_neuron FAST neuron subcircuit ----------
.subckt demo_neuron_fast mem vref vdd comp_out
Cmem mem vref 3.3e-08
Rleak mem vref 330000.0
.param VTH0=0.8
.param HYST=0.05
.param VLO=0.0 VHI=5.0
* Threshold node includes hysteresis based on comparator output level
Bvth vth 0 V = V(vref) + VTH0 + HYST*((V(comp_out)-(VLO+VHI)/2)/(VHI-VLO))
* Smooth comparator (tanh) to aid convergence
Bcomp comp_raw 0 V = VLO + (VHI-VLO)*0.5*(1+tanh(2000.0*(V(mem)-V(vth))))
Rcout comp_raw comp_out 1k
Ccout comp_out 0 1n
* Reset path: mem -> series R -> ideal switch -> vref
Rreset mem reset_node 200.0
Sreset reset_node vref comp_out 0 SWRESET
.model SWRESET SW(Ron=0.1 Roff=1e12 Vt=2.5 Vh=0.1)
.ends

* ---------- demo_neuron DETAILED neuron subcircuit ----------
.subckt demo_neuron_detailed mem vref vdd comp_out vpos vneg
* OPA604-like buffer for Vref (unity gain follower)
Ebuf vref_buf 0 vref 0 1e5
Rbuf vref_buf vref 1k
Cbuf vref 0 80p
* Tie the external vref node to the buffered node
Rvr vref vref_buf 1m
Cmem mem vref 3.3e-08
Rleak mem vref 330000.0
.param VTH0=0.8
.param HYST=0.05
.param VLO=0.0 VHI=5.0
* Dynamic threshold w/ hysteresis
Bvth vth 0 V = V(vref) + VTH0 + HYST*((V(comp_out)-(VLO+VHI)/2)/(VHI-VLO))
* Comparator with offset and RC delay
Bcomp comp_raw 0 V = VLO + (VHI-VLO)*0.5*(1+tanh(2000*(V(mem)-V(vth)-0.003)))
Rcout comp_raw comp_out 10.0
Ccout comp_out 0 5e-09
* Reset path through MAX4617-like switch in series with a limiting resistor
Rreset mem reset_node 200.0
Coff_reset reset_node vref 7e-12
Sreset reset_node vref comp_out 0 SWMUX
.model SWMUX SW(Ron=10.0 Roff=1000000000.0 Vt=2.5 Vh=0.1)
.ends


XNEU mem vref vdd comp vpos vneg demo_neuron_detailed
.model D_SCHOTTKY D(Is=1e-6 N=1.05 Rs=2 Cjo=2p Vj=0.3 M=0.3 Eg=0.69)
Vsrc_syn1 n_syn1 vref PWL(0.0 0.0 0.005 0.0 0.005001 1.2 0.005999 1.2 0.006 0.0)

R_syn1_A n_syn1 n_syn1_w 75
R_syn1_W n_syn1_w n_syn1_r 10000.0
D_syn1 n_syn1_r mem D_SCHOTTKY
Vsrc_syn2 n_syn2 vref PWL(0.0 0.0 0.01 0.0 0.010001 1.2 0.010999 1.2 0.011 0.0 0.012 0.0 0.012001 1.2 0.012999 1.2 0.013 0.0)

R_syn2_A n_syn2 n_syn2_w 75
R_syn2_W n_syn2_w n_syn2_r 20000.0
D_syn2 n_syn2_r mem D_SCHOTTKY
Vsrc_syn3 n_syn3 vref PWL(0.0 0.0 0.02 0.0 0.020001 1.2 0.021999 1.2 0.022 0.0)

R_syn3_A n_syn3 n_syn3_w 75
R_syn3_W n_syn3_w n_syn3_r 50000.0
D_syn3 n_syn3_r mem D_SCHOTTKY

.control
  set filetype=ascii
  tran 1e-06 0.05
  wrdata /Users/eoghancollins/Tarskii/SPICE/neuronSim/outputs/lif_detailed.csv time v(vref) v(mem) v(comp) v(n_syn1) v(n_syn2) v(n_syn3)
  quit
.endc

.end
